2107-11-19 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 year old woman with PMH of atrial fibrillation,
   hypertension, hyperlipidemia, diastolic heart failure, moderate 3+ TR,
   severe right sided failure admitted for diuresis and course complicated
   by upper GI bleed from duodenal ulcer.
   24 Hour Events:
   EGD: Impression: Medium hiatal hernia, Blood in the stomach, ulcer in
   the first part of the duodenum (injection, thermal therapy), otherwise
   normal EGD to second part of the duodenum Recommendations: PPI drip,
   NGT to intermittent suction until AM, H Pylori Ab, serial Hct, f/u with
   Dr [**Last Name (STitle) 6753**].
   Pt extremely anxious and persistent about wanting to go back to the
   floor and about blood products. Convinced pt to stay and to consent for
   blood but Hct stable.
   Bowel movements with old blood.
   Allergies:
   Lisinopril - Rash; Abdominal
   Kefzol - Hives
   Sulfa - Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2107-11-18**] 09:00 PM
   Midazolam (Versed) - [**2107-11-18**] 11:12 PM
   Other medications: see below
   Flowsheet Data as of  [**2107-11-19**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 83 (75 - 99) bpm
   BP: 136/54(75) {85/42(56) - 149/85(93)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     71 mL
                                                                     58 mL
   PO:
             TF:
   IVF:
                                                                     71 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                    235 mL
   Urine:
                                                                    370 mL
                                                                    235 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -399 mL
                                                                   -177 mL
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: RRR, no MRG, normal s1 s2.
   Respiratory / Chest: CTA bilaterally
   Abdominal: Soft, Non-tender
   Extremities: Bilateral 2+ edema to midshin. Warm well perfused
   distally.
   Neurologic: Alert and oriented x 3, answering questions and following
   commands appropriately
   Labs / Radiology
   293 K/uL
   13.9 g/dL
   40.2 %
   7.7 K/uL
        [image002.jpg]
                            [**2107-11-18**]  06:46 PM
                            [**2107-11-18**]  11:20 PM
   WBC
   8.1
   7.7
   Hct
   39.9
   40.2
   Plt
   297
   293
   Assessment and Plan
   62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer.
   .
   #. GI bleed: Evidence of bleeding ulcer in duodenal bulb. S/P epi
   injeciton + cauterization.
   - Serial Hcts
   - 3 PIVs (22gauge x 2, 18g EJ)
   - IV PPI gtt
   - Blood typed and crossed
   - ck H. pylori antibody
   - Monitor NGT output and stool outpt.
   .
   #. Right sided failure: Likely secondary to severe TR.
   - Hold on diuresis given GI bleed
   - Will consider restarting BB this AM although blood pressures have
   been running low.
   - Does not seem to be losing large enough amounts of GI fluids to
   worsen dependency on preload.
   .
   #. CAD: No evidence of CAD on cath.
   - Holding ASA given bleed
   .
   #. Atrial Fibrillation: Currently rate controlled. CHADS score = 2
   considering diastolic disfunction and hypertension, however patient is
   not currently anticoagulated, given concern for her alcohol abuse.
   - ? Restart beta blocker as rate ~100.
   - On ASA, but holding for now. Can consider coumadin when stabilizes.
   .
   #. History of Alcohol abuse: No evidence of withdrawal. CIWA scores 0.
   .
   #. UC: Recently well controlled, continue mesalamine
   - Per GI, ulceration was not consistent with Chrons.
   .
   #. FEN: NPO, lytes prn, IVF if putting out large volume for NG
   #. Access: PIV, 18G EJ
   #. PPx: Pneumoboots (holding SCH during GIB)
   #. Code: FULL
   #. Dispo: CCU for EGD. [**Hospital Ward Name 790**] 3 [**Hospital1 2259**] in AM if stable overnight.
                       Active Medications [**Known lastname **],[**Known firstname **]
                       1. Mesalamine DR 800 mg PO TID
   8. Acetaminophen 325-650 mg PO Q6H:PRN
   2. Pantoprazole 40 mg IV BOLUS ONCE
   9. Midazolam 3.5 mg IV ONCE
   3. Pantoprazole 8 mg/hr IV DRIP INFUSION
   10. Fentanyl Citrate 100 mcg IV ONCE
   4. Multivitamins 1 TAB PO DAILY
   11. Ondansetron 4 mg IV Q6H:PRN
   5. FoLIC Acid 1 mg PO DAILY
   12. Docusate Sodium 100 mg PO BID
   6. Thiamine 100 mg PO DAILY
   13. Senna 1 TAB PO BID:PRN
   7. Fexofenadine 180 mg PO DAILY
   14. Cepacol (Menthol) 1 LOZ PO PRN

2107-11-20 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 62 year old woman with PMH of atrial fibrillation,
   hypertension, hyperlipidemia, diastolic heart failure, moderate 3+ TR,
   severe right sided failure admitted for diuresis and course complicated
   by upper GI bleed from duodenal ulcer.
   24 Hour Events:
   (Pt had EGD on [**11-18**]).
   Pt was stable with a Hct 34.9. Pt was transferred to the floor, and
   around 3pm Hct dropped to 31.4. At 5pm Hct was 28.8, and pt was
   transferred back to the CCU.   Another Hct at 7:26pm was 32.3, this
   morning 28.7.
   S: no longer fatigued, no more black spots in her vision. Denies any
   emesis. 1 episode of melana at midnight. Also very itchy currently.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-11-20**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-20**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 90 (90 - 115) bpm
   BP: 117/64(77) {83/34(45) - 124/66(97)} mmHg
   RR: 15 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79 kg (admission): 88.8 kg
             Total In:
                                                                    592 mL
                                                                    584 mL
   PO:
                                                                    360 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    232 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    200 mL
   Urine:
                                                                    865 mL
                                                                    200 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: irregular irregular, no MRG, normal s1 s2.
   Respiratory / Chest: CTA bilaterally
   Abdominal: Soft, Non-tender, no epigastric tenderness
   Extremities: 1+ edema.. Warm well perfused distally.
   Neurologic: Alert and oriented x 3, answering questions and following
   commands appropriately
   Labs / Radiology
   288 K/uL
   9.9 g/dL
   113 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.3 mEq/L
   67 mg/dL
   95 mEq/L
   133 mEq/L
   28.7 %
   6.6 K/uL
        [image002.jpg]
                            [**2107-11-18**]  06:46 PM
                            [**2107-11-18**]  11:20 PM
                            [**2107-11-19**]  05:14 AM
                            [**2107-11-19**]  09:22 AM
                            [**2107-11-19**]  03:06 PM
                            [**2107-11-19**]  06:00 PM
                            [**2107-11-19**]  07:30 PM
                            [**2107-11-20**]  04:34 AM
   WBC
   8.1
   7.7
   7.2
   6.6
   Hct
   39.9
   40.2
   35.7
   34.9
   31.5
   28.8
   32.3
   28.7
   Plt
   297
   293
   303
   288
   Cr
   1.7
   1.7
   Glucose
   105
   113
   Other labs: PT / PTT / INR:13.6/24.9/1.2, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.3 mg/dL
   EGD: Impression: Medium hiatal hernia, Blood in the stomach, ulcer in
   the first part of the duodenum (injection, thermal therapy), otherwise
   normal EGD to second part of the duodenum Recommendations: PPI drip,
   NGT to intermittent suction until AM, H Pylori Ab, serial Hct, f/u with
   Dr [**Last Name (STitle) 6753**].
   Assessment and Plan
   62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer.
   .
   #. GI bleed: Evidence of bleeding ulcer in duodenal bulb. S/P epi
   injeciton + cauterization.  Hct stable 31 overnight, and currently 28.7
   likely [**1-22**] hemodillution. Melana likely [**1-22**] previous UGI bleed.
   - Will check q12 Hcts if stable.
   - will not rescope today since stable
   - 3 PIVs (22gauge x 2, 18g EJ)
   - continue IV PPI gtt
   - Blood typed and crossed, threshold for transfusion 30, consent
   obtained
 patient refusing transfusion.
   - f/u H. pylori antibody
   .
   #. Right sided failure: Likely secondary to severe TR.
   - Hold on diuresis given GI bleed
   - Holding BB while hypotensive and not requiring rate control of AFib.
   - Does not seem to be losing large enough amounts of GI fluids to
   worsen dependency on preload.
   .
   #. CAD: No evidence of CAD on cath.
   - Holding ASA given bleed
   .
   #. Atrial Fibrillation: Currently rate controlled. CHADS score = 2
   considering diastolic dysfunction and hypertension, however patient is
   not currently anticoagulated, given concern for her alcohol abuse.
   - On ASA, but holding for now. Can consider coumadin when stabilizes.
   .
   #. History of Alcohol abuse: No evidence of withdrawal. CIWA scores 0.
   .
   #. UC: Recently well controlled, continue mesalamine
   - Per GI, ulceration was not consistent with Chrons.
   #. Social: Based on bruises on backs of pt
s legs and pt
s awkward
   response to
have you fallen recently?
 will ask Social work to come
   evaluate for ? abuse at home.
   .
   #. FEN: advancing to clears, currently NS @ 75ml/h x1L.  IVF if putting
   out large volume for NG but holding off given initial presentation in
   CHF exacerbation.
   #. Access: PIV, 18G EJ
   #. PPx: Pneumoboots (holding SCH during GIB)
   #. Code: FULL
   #. Dispo: if no longer orthostatic and Hct stable, will transfer back
   to floor.

2107-11-21 05:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:  62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer.
   24 Hour Events:
   Pt was kept in the CCU to monitor serial HCTs, no further episodes of
   melena or bleeding.  HCTs stable.  Walking to bathroom during the day,
   is asymptomatic without dizziness, lightheadness, fatigue.
   Metoprolol was restarted due to tachycardia, atrial fibrillation.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-21**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 99 (90 - 122) bpm
   BP: 99/55(64) {83/36(47) - 131/70(79)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79 kg (admission): 88.8 kg
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    870 mL
                  TF:
   IVF:
                                                                  1,048 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    300 mL
   Urine:
                                                                  1,230 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    688 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: irregular irregular, no MRG, normal s1 s2.
   Respiratory / Chest: CTA bilaterally
   Abdominal: Soft, Non-tender, no epigastric tenderness
   Extremities: 1+ edema.. Warm well perfused distally.
   Neurologic: Alert and oriented x 3, answering questions and following
   commands appropriately
   Labs / Radiology
   9.1 g/dL
   331 K/uL
   101 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   49 mg/dL
   96 mEq/L
   131 mEq/L
   26.0 %
   6.7 K/uL
        [image002.jpg]
                            [**2107-11-18**]  11:20 PM
                            [**2107-11-19**]  05:14 AM
                            [**2107-11-19**]  09:22 AM
                            [**2107-11-19**]  03:06 PM
                            [**2107-11-19**]  06:00 PM
                            [**2107-11-19**]  07:30 PM
                            [**2107-11-20**]  04:34 AM
                            [**2107-11-20**]  12:00 PM
                            [**2107-11-20**]  08:01 PM
                             [**2107-11-21**]  03:54 AM
   WBC
   7.7
   7.2
   6.6
   6.7
   Hct
   40.2
   35.7
   34.9
   31.5
   28.8
   32.3
   28.7
   26.7
   25.8
   26.0
   Plt
   293
   303
   288
   331
   Cr
   1.7
   1.7
   1.5
   Glucose
   105
   113
   101
   Other labs: PT / PTT / INR:13.6/24.9/1.2, Ca++:9.2 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer.
   .
   #. GI bleed: Evidence of bleeding ulcer in duodenal bulb. S/P epi
   injeciton + cauterization.  Hct stable 31 overnight, and currently 28.7
   likely [**1-22**] hemodillution. Melana likely [**1-22**] previous UGI bleed.
   - Will check q12 Hcts if stable.
   - will not rescope today since stable
   - 3 PIVs (22gauge x 2, 18g EJ)
   - continue IV PPI gtt
   - Blood typed and crossed, threshold for transfusion 30, consent
   obtained
 patient refusing transfusion.
   - f/u H. pylori antibody
   .
   #. Right sided failure: Likely secondary to severe TR.
   - Hold on diuresis given GI bleed
   - Holding BB while hypotensive and not requiring rate control of AFib.
   - Does not seem to be losing large enough amounts of GI fluids to
   worsen dependency on preload.
   .
   #. CAD: No evidence of CAD on cath.
   - Holding ASA given bleed
   .
   #. Atrial Fibrillation: Currently rate controlled. CHADS score = 2
   considering diastolic dysfunction and hypertension, however patient is
   not currently anticoagulated, given concern for her alcohol abuse.
   - On ASA, but holding for now. Can consider coumadin when stabilizes.
   .
   #. History of Alcohol abuse: No evidence of withdrawal. CIWA scores 0.
   .
   #. UC: Recently well controlled, continue mesalamine
   - Per GI, ulceration was not consistent with Chrons.
   #. Social: Based on bruises on backs of pt
s legs and pt
s awkward
   response to
have you fallen recently?
 will ask Social work to come
   evaluate for ? abuse at home.
   .
   #. FEN: advancing to clears, currently NS @ 75ml/h x1L.  IVF if putting
   out large volume for NG but holding off given initial presentation in
   CHF exacerbation.
   #. Access: PIV, 18G EJ
   #. PPx: Pneumoboots (holding SCH during GIB)
   #. Code: FULL
   #. Dispo: if no longer orthostatic and Hct stable, will transfer back
   to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2107-11-18**] 06:15 PM
   18 Gauge - [**2107-11-18**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2107-11-21 05:48:00 Physician Resident Progress Note
Chief Complaint:
   HPI:  62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer.
   24 Hour Events:
   Pt was kept in the CCU to monitor serial HCTs, no further episodes of
   melena or bleeding.  HCTs stable.  Walking to bathroom during the day,
   is asymptomatic without dizziness, lightheadness, fatigue.  Pt.
   tolerating clears.
   Metoprolol was restarted due to tachycardia, atrial fibrillation.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies CP, SOB, lightheadedness, dizziness with
   ambulation.  Has had no BMs, no dysuria.
   Flowsheet Data as of  [**2107-11-21**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 99 (90 - 122) bpm
   BP: 99/55(64) {83/36(47) - 131/70(79)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79 kg (admission): 88.8 kg
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    870 mL
                  TF:
   IVF:
                                                                  1,048 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    300 mL
   Urine:
                                                                  1,230 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    688 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: irregular irregular, no MRG, normal s1 s2.
   Respiratory / Chest: CTA bilaterally
   Abdominal: Soft, Non-tender, no epigastric tenderness
   Extremities: 1+ edema.. Warm well perfused distally.
   Neurologic: Alert and oriented x 3, answering questions and following
   commands appropriately
   Labs / Radiology
   9.1 g/dL
   331 K/uL
   101 mg/dL
   1.5 mg/dL
   28 mEq/L
   4.3 mEq/L
   49 mg/dL
   96 mEq/L
   131 mEq/L
   26.0 %
   6.7 K/uL
        [image002.jpg]
                            [**2107-11-18**]  11:20 PM
                            [**2107-11-19**]  05:14 AM
                            [**2107-11-19**]  09:22 AM
                            [**2107-11-19**]  03:06 PM
                            [**2107-11-19**]  06:00 PM
                            [**2107-11-19**]  07:30 PM
                            [**2107-11-20**]  04:34 AM
                            [**2107-11-20**]  12:00 PM
                            [**2107-11-20**]  08:01 PM
                             [**2107-11-21**]  03:54 AM
   WBC
   7.7
   7.2
   6.6
   6.7
   Hct
   40.2
   35.7
   34.9
   31.5
   28.8
   32.3
   28.7
   26.7
   25.8
   26.0
   Plt
   293
   303
   288
   331
   Cr
   1.7
   1.7
   1.5
   Glucose
   105
   113
   101
   Other labs: PT / PTT / INR:13.6/24.9/1.2, Ca++:9.2 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer, now cauterized.
   .
   #. GI bleed: Evidence of bleeding ulcer in duodenal bulb. S/P epi
   injeciton + cauterization.  Hct stable 26 overnight, and currently 26
   likely [**1-22**] hemodillution w/ increasing PO intake.  Pt asymptomatic at
   this HCT.  Melana likely [**1-22**] previous UGI bleed.
   - Will check qD Hcts since they are stable.   H. pylori antibody
   negative
   - 3 PIVs (22gauge x 2, 18g EJ)
   - change IV PPI to PO BID 40mg if pt. able to tolerate PO.
   - Blood typed and crossed, consent in chart
 patient refusing
   transfusion initially, after further discussion patient is agreeable.
   But given stable HCT at 26, will continue to monitor and transfuse if
   HCT < 25.
   .
   #. Right sided failure: Likely secondary to severe TR.  I/Os were
   positive 300cc over 32hrs, w/ increasing PO intake, thus no concerns
   re: preload from volume status at this point.    Will attempt to
   decrease rate to improve filling.
   - Hold on diuresis given GI bleed suspicion and low BPs.
   - Restarted BB as HR in 100-110 w/ holding parameters for hypotension,
   for rate control of AFib.
   .
   #. CAD: No evidence of CAD on cath.
   - Holding ASA given bleed
   .
   #. Atrial Fibrillation: Currently rate controlled. CHADS score = 2
   considering diastolic dysfunction and hypertension, however patient is
   not currently anticoagulated, given concern for her alcohol abuse.
   - On ASA, but holding for now. Can consider coumadin when stabilizes
   for > 48hrs.
   .
   #. History of Alcohol abuse: No evidence of withdrawal. CIWA scores 0.
   .
   #. UC: Recently well controlled, continue mesalamine
   - Per GI, ulceration was not consistent with Chrons.
   #. Social: Based on bruises on backs of pt
s legs and pt
s awkward
   response to
have you fallen recently?
 will ask Social work to come
   evaluate for ? abuse at home.
   .
   #. FEN: advancing to fulls and regular, no IVF.
   #. Access: PIV, 18G EJ
   #. PPx: Pneumoboots (holding SCH during GIB)
   #. Code: FULL
   #. Dispo: Hct stable, will transfer back to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2107-11-18**] 06:15 PM
   18 Gauge - [**2107-11-18**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2107-11-22 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer.
   24 Hour Events:
   The patient remained in the CCU as there were no beds on the floor.
   Her B-blocker was restarted at 12.5 mg [**Hospital1 **].  Her diuretics continued to
   be held.
   This am she denies recent vomiting, no bm over the last day, but she is
   passing gas.  Denies dizziness, SOB or chest pain.
   Allergies:
   Lisinopril
   Rash; Abdominal
   Kefzol (Intraven.) (Cefazolin Sodium)
   Hives;
   Sulfa (Sulfonamide Antibiotics)
   Hives; Nausea/V
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-11-21**] 06:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-11-22**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (85 - 108) bpm
   BP: 93/59(67) {76/33(44) - 121/74(92)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79 kg (admission): 88.8 kg
                  Total In:
                                                                    600 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    300 mL
   Urine:
                                                                    600 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   General Appearance: Middle-aged female lying in bed in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OP clear
   Cardiovascular: irregularly irregular, no MRG, normal s1 s2.
   Respiratory / Chest: Patient breathing comfortably, CTA bilaterally
   Abdominal: Soft, Non-tender, no epigastric tenderness
   Extremities: 1+pitting  edema.. Warm well perfused distally.
   Neurologic: Alert and appropriate
   Labs / Radiology
   317 K/uL
   7.7 g/dL
   99 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.5 mEq/L
   38 mg/dL
   98 mEq/L
   132 mEq/L
   22.5 %
   5.5 K/uL
        [image002.jpg]
                            [**2107-11-19**]  05:14 AM
                            [**2107-11-19**]  09:22 AM
                            [**2107-11-19**]  03:06 PM
                            [**2107-11-19**]  06:00 PM
                            [**2107-11-19**]  07:30 PM
                            [**2107-11-20**]  04:34 AM
                            [**2107-11-20**]  12:00 PM
                            [**2107-11-20**]  08:01 PM
                             [**2107-11-21**]  03:54 AM
                             [**2107-11-22**]  05:30 AM
   WBC
   7.2
   6.6
   6.7
   5.5
   Hct
   35.7
   34.9
   31.5
   28.8
   32.3
   28.7
   26.7
   25.8
   26.0
   22.5
   Plt
   [**Telephone/Fax (3) 6799**]17
   Cr
   1.7
   1.7
   1.5
   1.3
   Glucose
   105
   113
   101
   99
   Other labs: PT / PTT / INR:13.6/24.9/1.2, Ca++:8.8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   62 year old woman with PMH of atrial fibrillation, hypertension,
   hyperlipidemia, diastolic heart failure, moderate 3+ TR, severe right
   sided failure admitted for diuresis and course complicated by upper GI
   bleed from duodenal ulcer, now cauterized.
   .
   #. GI bleed: Evidence of bleeding ulcer in duodenal bulb. S/P epi
   injeciton + cauterization.   Pt asymptomatic at her current Hct.
   Melana likely [**1-22**] previous UGI bleed.  Her Hct decreased to 22.5 from
   26 overnight, however on recheck it was 25.5, likely variation in the
   test itself.   H. pylori antibody negative
   - Will check daily Hcts since they have been stable.
   - 3 PIVs (22gauge x 2, 18g EJ)
   - Continue PPI PO BID 40 mg
   - Blood typed and crossed, consent in chart
 patient refusing
   transfusion initially, after further discussion patient is agreeable.
   But given stable her stable Hct will hold off transfusion.
   .
   #. Right sided failure: Likely secondary to severe TR.  I/Os were
   positive 300cc over 32hrs, w/ increasing PO intake, thus no concerns
   re: preload from volume status at this point.    Will attempt to
   decrease rate to improve filling.
   - Hold on diuresis given GI bleed suspicion and low BPs.
   - Will increase her Metoprolol to 25 mg [**Hospital1 **] (from 12.5 mg [**Hospital1 **]), for
   rate control of AFib.
   .
   #. CAD: No evidence of CAD on cath.
   - Holding ASA indefinitely given her recent GI bleed.
   .
   #. Atrial Fibrillation: Currently rate controlled. CHADS score = 2
   considering diastolic dysfunction and hypertension, however patient is
   not currently anticoagulated, given concern for her alcohol abuse.
   - On ASA as an outpatient, but holding anticoagulation indefinitely
   given her recent GI bleed.
   .
   #. History of Alcohol abuse: No evidence of withdrawal. CIWA scores 0.
   .
   #. UC: Recently well controlled, continue mesalamine
   - Per GI, ulceration was not consistent with Chrons.
   #. Social: Based on bruises on backs of pt
s legs and pt
s awkward
   response to
have you fallen recently?
 will ask Social work to come
   evaluate for ? abuse at home.   SW saw the patient yesterday and she
   denied abuse at home and felt safe.
   .
   #. FEN: advancing to fulls and regular, no IVF.
   #. Access: PIV, 18G EJ
   #. PPx: Pneumoboots (holding SCH during GIB)
   #. Code: FULL
   #. Dispo: Hct stable, will transfer back to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-11-21**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: